US05554624
(4-Methylphenyl)phenylmethylidenemalononitrile
To a solution of 0.85 mL (6 mmol) of diisopropylamine in 11.3 mL of dry tetrahydrofuran, cooled to -78° C., was added 3.5 mL (5.6 mmol) of BuLi and the resulting mixture was stirred for 10 min. Next, 0.34 g (5.1 mmol) of malononitrile dissolved in 1.7 mL of tetrahydrofuran was carefully added and the resulting mixture was stirred for 30 min more. Finally, 1 g (5.1 mmol) of 4-methylbenzophenone in 1.7 mL of tetrahydrofuran was added. The mixture was allowed to warm up to room temperature and then it was heated at reflux for 2 days. Ethyl acetate was added and the resulting solution was washed with water. The aqueous phase was extracted with ethyl acetate and the combined organic phases were dried and the solvent was removed to yield 1.3 g of the desired product as a reddish oil (yield: quantitative).

reactant | diisopropylamine | 6 mmol, 0.85 mL | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 5.6 mmol, 3.5 mL | [Li]CCCC
reactant | malononitrile | 5.1 mmol, 0.34 g | C(CC#N)#N | C3H2N2
reactant | 4-methylbenzophenone | 5.1 mmol, 1 g | CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O
solvent | tetrahydrofuran | 11.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.7 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Methylphenyl)phenylmethylidenemalononitrile | 1.3 g, yield: quantitative | CC1=CC=C(C=C1)C(C1=CC=CC=C1)=C(C#N)C#N | C17H12N2
